US04086094
In 200 ml of acetic acid, 33 g of 1-(2,4,6-trichlorophenyl)-3-[3-(2,4-di-tert-amylphenoxyacetamido)benzamido]-5-pyrazolone was dissolved. 7.5 g of bromine was dropwise added to the solution with stirring. After the completion of the reaction, the reaction mixture was added to water, and the thus obtained crystals recovered by filtration and washed were recrystallized, after drying, from 150 ml of a mixture of ethyl acetate and ligroin (1:10 by volume) to obtain 26 g of 1-(2,4,6-trichlorophenyl-3-[3-(2,4-di-tert-amylphenoxyacetamido)benzamido]-4-bromo-5-pyrazolone having a melting point of 139° to 141° C.

reactant | 1-(2,4,6-trichlorophenyl)-3-[3-(2,4-di-tert-amylphenoxyacetamido)benzamido]-5-pyrazolone | 33 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=CC1=O)NC(C1=CC(=CC=C1)NC(COC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O)=O | C34H37Cl3N4O4
reactant | bromine | 7.5 g | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2,4,6-trichlorophenyl-3-[3-(2,4-di-tert-amylphenoxyacetamido)benzamido]-4-bromo-5-pyrazolone | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C(C1=O)Br)NC(C1=CC(=CC=C1)NC(COC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O)=O | C34H36BrCl3N4O4
